US08648087B2
Step A: Preparation of (Z)-N,N-dimethyl-N′-(4-(2-methyl-4-nitrophenoxy)pyridin-2-yl)formamidine:
To a solution of 4-(2-methyl-4-nitrophenoxy)pyridin-2-amine (2.05 g, 8.34 mmol) in ethanol (9 mL) was added dimethoxy-N,N-dimethylmethanamine (1.18 mL, 8.34 mmol). After heating to 80° C. for 1 hour, the mixture was concentrated under reduced pressure to provide the crude product as dark oil.

reactant | 4-(2-methyl-4-nitrophenoxy)pyridin-2-amine | 8.34 mmol, 2.05 g | CC1=C(OC2=CC(=NC=C2)N)C=CC(=C1)[N+](=O)[O-] | C12H11N3O3
reactant | dimethoxy-N,N-dimethylmethanamine | 8.34 mmol, 1.18 mL | COC(N(C)C)OC | C5H13NO2
solvent | ethanol | 9 mL | C(C)O | C2H6O
product | (Z)-N,N-dimethyl-N′-(4-(2-methyl-4-nitrophenoxy)pyridin-2-yl)formamidine | CN(\C=N/C1=NC=CC(=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])C)C | C15H16N4O3
